US04112098
6-(3-Ethoxy-3-oxo-1-propenyl)-9-methoxy-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester
1.5 g (0.0079 mole) of 5-methoxy-3-diazooxindole and 0.99 g (0.01 mole of 1.3 equiv.) of 99% ethyl propiolate are refluxed in benzene (50 ml) under N2 for 24 hours. The reaction mixture is cooled down to room temperature and the precipitates that form are filtered off and washed well with ether, dried in a vacuum oven at 60° for 2 hours. Yield: 661.8 mg, m.p. 202°-204°, Rf 0.3. This crude product is taken up in 75 ml of absolute ethanol, treated with activated carbon, filtered through a celite pad and the clear filtrate is concentrated down to a volume of ~50 ml on the steam bath. After cooling, the precipitates that form are filtered off. The product is dried overnight in a vacuum oven at room temperature. Yield: 555.4 mg, m.p. 225°-227°.

reactant | 5-methoxy-3-diazooxindole | 0.0079 mole, 1.5 g | COC=1C=C2C(C(NC2=CC1)=O)=[N+]=[N-] | C9H7N3O2
reactant | ethyl propiolate | 0.01 mole, 0.99 g, 1.3 equiv. | C(C#C)(=O)OCC | C5H6O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-(3-Ethoxy-3-oxo-1-propenyl)-9-methoxy-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester | C(C)OC(C=CN1C(N2C(C=3C=C(C=CC13)OC)=CC(=N2)C(=O)OCC)=O)=O | C19H19N3O6
